US05043142
To a solution of 100 g (4.52 mmol) of 5-bromo-2-chlorobenzyl alcohol in dry dichloromethane (20 ml) were added 675 mg (5.42 mmol) of 2-methoxyethoxymethyl chloride and 1.20 ml (6.89 mmol) of N,N-diisopropylethylamine in an atmosphere of argon, and the mixture was allowed to react at room temperature for 18 hours. To the reaction solution at 0° C. was a added saturated aqueous solution of ammonium chloride followed by extraction with ethyl acetate. The organic layer was washed with water and then concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. Elution with dichloromethane-hexane (1:5) yielded 1.23 g (3.98 mmol) of 4-bromo-1-chloro-2-(2-methoxyethoxymethoxymethyl)benzene.

reactant | 5-bromo-2-chlorobenzyl alcohol | 4.52 mmol, 100 g | BrC=1C=CC(=C(CO)C1)Cl | C7H6BrClO
reactant | 2-methoxyethoxymethyl chloride | 5.42 mmol, 675 mg | COCCOCCl | C4H9ClO2
reactant | N,N-diisopropylethylamine | 6.89 mmol, 1.20 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-bromo-1-chloro-2-(2-methoxyethoxymethoxymethyl)benzene | 3.98 mmol, 1.23 g | BrC1=CC(=C(C=C1)Cl)COCOCCOC | C11H14BrClO3
